US04650804
A mixture of 4H-quinolizin-4-one-3-carboxamide (1.0 g) and phosphorus oxychloride (50 ml) was refluxed for one hour. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in aqueous sodium bicarbonate solution and chloroform. The chloroform extract was washed with water, dried over anhydrous magnesium sulfate and then evaporated. The residue was chromatographed on silica gel (30 g) eluting with chloroform-methanol (50:1) to give 3-cyano-4H-quinolizin-4-one, which on recrystallization from ether gave crystals (800 mg), mp. 198°-200° C.

reactant | 4H-quinolizin-4-one-3-carboxamide | 1.0 g | C=1C=C(C(N2C=CC=CC12)=O)C(=O)N | C10H8N2O2
solvent | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-cyano-4H-quinolizin-4-one | C(#N)C1=CC=C2C=CC=CN2C1=O | C10H6N2O
